US07705053B2
Production of 3-N-(4-chlorophenyl)-4-cyclopropylmethoxy-isophthalamide (Compound 1-1-8)
The captioned compound was synthesized from 3-N-(4-chlorophenyl)-4-methoxyisophthalamide and (bromomethyl)cyclopropane by the same procedure as in the manufacturing method described in Example 1-1-2.

reactant | 3-N-(4-chlorophenyl)-4-methoxyisophthalamide | ClC1=CC=C(C=C1)NC(C=1C=C(C(=O)N)C=CC1OC)=O | C15H13ClN2O3
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | 3-N-(4-chlorophenyl)-4-cyclopropylmethoxy-isophthalamide | ClC1=CC=C(C=C1)NC(C=1C=C(C(=O)N)C=CC1OCC1CC1)=O | C18H17ClN2O3
